US07511167B2
1-(1): Preparation of 6-dodecanoyl-N-methyl-2-naphthylamine
MeNH2.HCl (11.0 g, 0.13 mol) was added to a mixture of 2-hydroxy-6-dodecanoylnaphthalene (8.0 g, 25 mmol), Na2S2O5 (12 g, 61 mmol), NaOH (5.2 g, 0.13 mol) and water (100 ml) in a high-pressure tube. The resulting mixture was stirred at 140° C. for 48 hours, followed by filtration to collect a solid. The solid was sufficiently washed with water and recrystallized from CH2Cl2-EtOH to give the title compound (5.6 g, yield: 67%).

reactant | MeNH2.HCl | 0.13 mol, 11.0 g | CN.Cl
reactant | 2-hydroxy-6-dodecanoylnaphthalene | 25 mmol, 8.0 g | OC1=CC2=CC=C(C=C2C=C1)C(CCCCCCCCCCC)=O | C22H30O2
reactant | NaOH | 0.13 mol, 5.2 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 6-dodecanoyl-N-methyl-2-naphthylamine | 5.6 g, yield: 67% | C(CCCCCCCCCCC)(=O)C=1C=C2C=CC(=CC2=CC1)NC | C23H33NO
